US08912208B2
B. (4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetonitrile
To a mixture of 2-(4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetamide (0.18 g, 0.41 mmol, 1.0 equiv) in 3 Ml THF was added trifluoroacetic anhydride (0.068 Ml, 0.49 mmol, 1.2 equiv) followed by triethylamine (0.12 Ml, 0.90 mmol, 2.2 equiv). The reaction was stirred at ambient temperature overnight, and then concentrated in vacuo. Purification by silica gel chromatography (10-50% EtOAc in hexanes) afforded the title compound: 1H NMR (400 MHz, DMSO-d6) δ ppm 1.39-1.50 (m, J=12.82, 12.54, 12.54, 3.54 Hz, 2 H) 1.69-1.80 (m, J=12.88, 12.69, 12.69, 3.41 Hz, 2 H) 1.86-1.97 (m, J=11.91, 11.91, 6.06, 5.87, 2.91 Hz, 1 H) 2.09 (d, J=15.92 Hz, 1 H) 2.09 (dd, J=5.94, 3.66 Hz, 3 H) 2.76 (t, J=3.03 Hz, 1 H) 7.53 (d, J=9.35 Hz, 1 H) 7.59 (d, J=8.34 Hz, 2 H) 8.08 (d, J=8.59 Hz, 1 H) 8.20 (d, J=8.34 Hz, 2 H) 8.30 (d, J=9.35 Hz, 1 H) 8.91 (dd, J=8.59, 2.27 Hz, 1H) 9.16 (d, J=2.53 Hz, 1 H) 10.25 (s, 1 H); (M+H)+ 438.3.

reactant | 2-(4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetamide | 0.41 mmol, 0.18 g, 1.0 equiv | FC(C1=CC=C(C=N1)NC1=CC=C(N=N1)C1=CC=C(C=C1)C1CCC(CC1)CC(=O)N)(F)F | C24H24F3N5O
reactant | THF | C1CCOC1 | C4H8O
reactant | trifluoroacetic anhydride | 0.49 mmol, 1.2 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (4-{4-[6-(6-Trifluoromethyl-pyridin-3-ylamino)-pyridazin-3-yl]-phenyl}-cyclohexyl)-acetonitrile | FC(C1=CC=C(C=N1)NC1=CC=C(N=N1)C1=CC=C(C=C1)C1CCC(CC1)CC#N)(F)F | C24H22F3N5
